US05107030
Preparation of 2-Acetyl-1,3-dioxane
A mixture of 3.81 g of 1,3-dihydroxyacetone dimer (available from Aldrich Chemical Co., Milwaukee, Wis.) and 308 mg of Amberlyst-15 ion-exchange resin (Aldrich Chemical Co., Milwaukee, Wis.) in 10 mL of 1,3-propanediol was stirred for four hours at a temperature of about 105° C. (external oil bath temperature) and protected from atmospheric moisture. After cooling the mixture to room temperature, it was filtered through a plug of glass wool into a separatory funnel containing 50 mL of 10% aqueous sodium chloride; and the product was isolated by extraction with dichloromethane (2×15 mL portions). The combined dichloromethane extracts were washed with saturated brine (30 mL), then dried over anhydrous sodium sulfate and filtered. Removal of dichloromethane by evaporation at reduced pressure, followed by evaporative distillation (bath temperature: 72°-91° C., 2.5 mm) afforded 2.92 g (53% yield) of the desired product, greater than 98% pure as shown by gas chromatographic analysis. The title compound, 2-acetyl-1,3-dioxane, has been previously prepared in a similar manner by S. K. Gupta, J. Org. Chem., 41, 2642 (1976).

reactant | 1,3-dihydroxyacetone dimer | 3.81 g | C1C(OCC(O1)(CO)O)(CO)O | C6H12O6
reactant | 1,3-propanediol | 10 mL | C(CCO)O | C3H8O2
product | 2-Acetyl-1,3-dioxane | 2.92 g, 53% yield | C(C)(=O)C1OCCCO1 | C6H10O3
